US08110585B2
N-{[(1R,2R)-2-(2-methyl-2H-indazol-4-yl)cyclopropyl]methyl}propanamide
To a solution of 1-[(1R,2R)-2-(2-methyl-2H-indazol-4-yl)cyclopropyl]methanamine dihydrochloride (2.00 g, 7.29 mmol) and triethylamine (4.00 mL, 28.7 mmol) in tetrahydrofuran (80 mL) was added propionic anhydride (1.38 mL, 10.8 mmol), and the mixture was stirred at room temperature for 12 hr. The reaction solution was concentrated under reduced pressure and the residue was purified by silica gel column chromatography (methanol/ethyl acetate=0/100→15/85) to give the title compound (1.79 g, yield 95%).

reactant | 1-[(1R,2R)-2-(2-methyl-2H-indazol-4-yl)cyclopropyl]methanamine dihydrochloride | 7.29 mmol, 2.00 g | Cl.Cl.CN1N=C2C=CC=C(C2=C1)[C@H]1[C@@H](C1)CN
reactant | triethylamine | 28.7 mmol, 4.00 mL | C(C)N(CC)CC | C6H15N
reactant | propionic anhydride | 10.8 mmol, 1.38 mL | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
product | N-{[(1R,2R)-2-(2-methyl-2H-indazol-4-yl)cyclopropyl]methyl}propanamide | 1.79 g, yield 95% | CN1N=C2C=CC=C(C2=C1)[C@H]1[C@@H](C1)CNC(CC)=O | C15H19N3O
